US04172094
A solution of 1,5-di-(phenyl)-3-pentanone (9.5 g., 0.04 mole) in 50 cc. of anhydrous ethanol is added dropwise over about 20 minutes to a stirred solution of 1,3-diamino-2-hydroxypropane (25 g., 0.27 mole) in 200 cc. of ethanol. The resulting mixture is then heated at reflux for about two hours, allowed to cool, 1.0 g. platinum oxide added, and the mixture reduced under a 40 psi hydrogen atmosphere until hydrogen uptake ceases. The mixture is then filtered from the catalyst, concentrated in vacuo to remove the ethanol, the residue taken up in ether (250 cc.), washed with water, dried over sodium sulfate, filtered and concentrated in vacuo to yield the product 1-amino-3-[1,5-di-(phenyl)-3-pentylamino]-2-propanol.

reactant | 1,5-di-(phenyl)-3-pentanone | 0.04 mole, 9.5 g | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)=O | C17H18O
reactant | 1,3-diamino-2-hydroxypropane | 0.27 mole, 25 g | NCC(CN)O | C3H10N2O
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1-amino-3-[1,5-di-(phenyl)-3-pentylamino]-2-propanol | NCC(CNC(CCC1=CC=CC=C1)CCC1=CC=CC=C1)O | C20H28N2O
